US08039472B2
Hydrazine (66.6 ml of a 1M solution in THF, 66.6 mmol) is added to a suspension of [(S)-5-benzyloxy-1-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3,3-dimethyl-pentyl]-carbamic acid tert-butyl ester (4 g, 8.32 mmol) in ethanol (100 ml), and the resulting solution is heated at 40° C. overnight. A fluffy white precipitate forms. The reaction is allowed to cool to room temperature and diethyl ether (100 ml) is added and the resulting white suspension cooled at 0° C. for 30 minutes. The white precipitate is removed by filtration and the solvent removed in vacuo. The residue is then stirred with diethyl ether (100 ml) for 1 hour, filtered and the solvent is removed in vacuo to afford ((S)-1-Aminomethyl-5-benzyloxy-3,3-dimethyl-pentyl)-carbamic acid tert-butyl ester as a pale yellow oil; [M+H]+ 351.

reactant | Hydrazine | NN | H4N2
reactant | [(S)-5-benzyloxy-1-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3,3-dimethyl-pentyl]-carbamic acid tert-butyl ester | 8.32 mmol, 4 g | C(C)(C)(C)OC(N[C@@H](CC(CCOCC1=CC=CC=C1)(C)C)CN1C(C2=CC=CC=C2C1=O)=O)=O | C28H36N2O5
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ((S)-1-Aminomethyl-5-benzyloxy-3,3-dimethyl-pentyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC(CCOCC1=CC=CC=C1)(C)C)CN)=O | C20H34N2O3
